US07960579B2
23 μL of thionyl chloride was added to 30 mg of (1R,2R,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid suspended in 0.3 mL of 4-fluorobenzyl alcohol at room temperature, and the mixture was stirred for 3 days at 60° C. After standing to cool, the reaction solution was purified by reverse phase chromatography (Wako gel 50C18 (made by Wako Pure Chemical Industries Ltd.) eluent: water, a 70% aqueous solution of acetonitrile), thereby yielding 5 mg of (1R,2R,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid 6-(4-fluorobenzyl)ester.

reactant | thionyl chloride | 23 μL | S(=O)(Cl)Cl | Cl2OS
reactant | (1R,2R,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid | 30 mg | N[C@@]1([C@@H]2[C@]([C@@H]2C[C@H]1OCC1=CC(=C(C=C1)Cl)Cl)(C(=O)O)F)C(=O)O | C15H14Cl2FNO5
reactant | 4-fluorobenzyl alcohol | 0.3 mL | FC1=CC=C(CO)C=C1 | C7H7FO
product | (1R,2R,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid 6-(4-fluorobenzyl)ester | 5 mg | FC1=CC=C(COC(=O)[C@]2([C@@H]3C[C@H]([C@]([C@H]23)(C(=O)O)N)OCC2=CC(=C(C=C2)Cl)Cl)F)C=C1 | C22H19Cl2F2NO5
